US08008283B2
Bumetanide (1.15 g, 3.15 mmol) was dissolved in dimethylformamide (DMF, 10 mL) and benzyl chloride (400 uL, 2.8 mmol) was added followed by triethylamine (480 uL). The reaction was heated to 80° C. for 12 hours, at which time TLC and LC/MS indicated the reaction was complete. The reaction was cooled to room temperature, brought up in dichloromethane and washed with water, saturated ammonium chloride and concentrated to a thick slurry. To the slurry was added water (25 mL). The resultant solids were filtered and dried in a vacuum oven at 50° C. for 12 hours to yield 1.0 g (80%) of benzyl 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate.

reactant | Bumetanide | 3.15 mmol, 1.15 g | CCCCNC=1C=C(C=C(C1OC=2C=CC=CC2)S(=O)(=O)N)C(=O)O | C17H20N2O5S
reactant | benzyl chloride | 2.8 mmol, 400 uL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triethylamine | 480 uL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | benzyl 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate | 1.0 g, 80% | NS(=O)(=O)C=1C=C(C(=O)OCC2=CC=CC=C2)C=C(C1OC1=CC=CC=C1)NCCCC | C24H26N2O5S
